US07626030B2
6-Hydroxybenzofuran-3(2H)-one (6 g, 40.0 mmol) was dissolved in DMF (80 mL), then added potassium carbonate (6.07 g, 43.97 mmol) and methyl iodide (4.12 mL, 65.95 mmol). The reaction was stirred at RT for 2 days. The mixture was filtered and the filtrate was concentrated in vacuo. The remaining oil was dissolved in EtOAc and washed with water. The aqueous layer was back-extracted with EtOAc (2×). The organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. The remaining orange-red solid was purified by silica gel chromatography (1:4 EtOAc/hexane) to afford 6-methoxybenzofuran-3(2H)-one as a bright yellow crystalline solid. MS (ESI, pos. ion) m/z: 165.1 (M+1).

reactant | 6-Hydroxybenzofuran-3(2H)-one | 40.0 mmol, 6 g | OC1=CC2=C(C(CO2)=O)C=C1 | C8H6O3
reactant | potassium carbonate | 43.97 mmol, 6.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 65.95 mmol, 4.12 mL | CI | CH3I
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 6-methoxybenzofuran-3(2H)-one | COC1=CC2=C(C(CO2)=O)C=C1 | C9H8O3
